US05386039
The obtained mixture was heated to reflux (bath temperature 100°) then, during 1 h, there was added a solution of 0.5M of geranylacetone in 135 g (1.5M) of dimethylcarbonate, where upon the resulting reaction mixture was kept refluxing during 10 min. It was finally poured into a 10% aqueous solution of NH4Cl saturated with NaCl. An ether extraction, followed by the usual work up of the combined organic extracts and fractional distillation gave methyl 3-oxo-7,11-dimethyl-dodeca-6,10-dienoate.

reactant | geranylacetone | 0.5M | C(\C=C(/C)\CCC=C(C)C)CC(C)=O | C13H22O
reactant | NH4Cl | [NH4+].[Cl-]
reactant | NaCl | [Na+].[Cl-]
reactant | dimethylcarbonate | 1.5M, 135 g | COC(OC)=O | C3H6O3
product | methyl 3-oxo-7,11-dimethyl-dodeca-6,10-dienoate | O=C(CC(=O)OC)CCC=C(CCC=C(C)C)C | C15H24O3
